US07256178B2
(1) (8E,12E,14E)-7-acetoxy-6,10,12,16,20-pentamethyl-3,16,21-tris(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide
A solution of (8E,12E,14E)-7-acetoxy-3,16,21-trihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (54 mg, 0.1 mmol), 4-dimethylaminopyridine (124 mg, 1 mmol), and triethylamine (102 mg, 1 mmol) in methylene chloride (2.5 mL) was cooled to 5° C. A solution of triethylsilyl chloride (152 mg, 1 mmol) in methylene chloride (0.5 mL) was added dropwise to the reaction mixture, and then the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, and then the organic layer was washed with water. The resulting organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 50 μm; ethyl acetate-hexane, 1:19->1:14) to obtain the title compound (77.1 mg, 88%) as a colorless oil.

reactant | (8E,12E,14E)-7-acetoxy-3,16,21-trihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.1 mmol, 54 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)(C)O)\C)O)C | C30H48O8
reactant | triethylamine | 1 mmol, 102 mg | C(C)N(CC)CC | C6H15N
reactant | triethylsilyl chloride | 1 mmol, 152 mg | C(C)[Si](CC)(CC)Cl | C6H15ClSi
catalyst | 4-dimethylaminopyridine | 1 mmol, 124 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-7-acetoxy-6,10,12,16,20-pentamethyl-3,16,21-tris(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide | 77.1 mg, 88% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](CC)(CC)CC)C)O1)(O[Si](CC)(CC)CC)C)\C)O[Si](CC)(CC)CC)C | C48H90O8Si3
